US07915404B2
{2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester (One-step process)
A solution of isopropylhydrazine hydrochloride (0.53 g, 4.8 mmol), (3-oxo-propyl)-carbamic acid benzyl ester (1.0 g, 4.8 mmol), and Et3N (1.94 g, 192 mmol) in DMF (20 mL) was stirred at rt for 18 h. The solution was treated with 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane (1.02 g, 3.95 mmol) and stirred at 60° C. for 18 h. The mixture was cooled to rt and concentrated. The residue was partitioned between EtOAc and water. The organic layer was separated, dried (MgSO4), and concentrated. Purification by FCC gave the title compound.

reactant | isopropylhydrazine hydrochloride | 4.8 mmol, 0.53 g | Cl.C(C)(C)NN
reactant | (3-oxo-propyl)-carbamic acid benzyl ester | 4.8 mmol, 1.0 g | C(C1=CC=CC=C1)OC(NCCC=O)=O | C11H13NO3
reactant | Et3N | 192 mmol, 1.94 g | CCN(CC)CC | C6H15N
reactant | 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane | 3.95 mmol, 1.02 g | FC1=CC=C(C=C1)C=C(CC1OCCO1)[N+](=O)[O-] | C12H12FNO4
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | {2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC1=NN(C(=C1CC1OCCO1)C1=CC=C(C=C1)F)C(C)C)=O | C26H30FN3O4
